US05808062
2-[[(4-hydroxy-2-oxo-6-phenyl-2H-pyran-3-yl)thio]methyl]-benzoic acid methyl ester:
The title compound was prepared by Method B using 4-hydroxy-6-phenyl-2H-pyran-2-one (2.0 g, 10.63 mmol), [2-(carbomethoxy)phenyl]methyl p-toluenethiosulfonate (3.57 g, 10.63 mmol), 1N NaOH (10.63 mL), ethanol (20 mL). m.p. 122°-123° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.81 (s, 3 H), 4.31 (s, 2 H), 6.67 (s, 1 H), 7.25 (d, 1 H), 7.31 (t, 1 H), 7.44 (t, 1 H), 7.44 (m, 3 H), 7.53 (d, 1 H), 7.99 (m, 3 H); IR (KBr) 3005, 2951, 1721, 1653, 1543, 1400, 1267, 1078, 966, 766, 711, 520 cm-1 ; MS (CI) m/e 397 (M+29, 4), 369 ((M+H), 40), 337 (34), 191 (26), 149 (100), 105 (14).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 10.63 mmol, 2.0 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | [2-(carbomethoxy)phenyl]methyl p-toluenethiosulfonate | 10.63 mmol, 3.57 g | C1(=CC=C(C=C1)S(=O)(OCC1=C(C=CC=C1)C(=O)OC)=S)C | C16H16O4S2
reactant | NaOH | 1N, 10.63 mL | [OH-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-[[(4-hydroxy-2-oxo-6-phenyl-2H-pyran-3-yl)thio]methyl]-benzoic acid methyl ester | COC(C1=C(C=CC=C1)CSC=1C(OC(=CC1O)C1=CC=CC=C1)=O)=O | C20H16O5S
